US07141352B2
In a nitrogen atmosphere, a mixture of 118 g of benzimidazole, 181 g of 3-bromopropyl acetate, 111 g of triethylamine, 2 g of sodium iodide, and 500 g of N,N-dimethylformamide was heated and stirred at 80° C. for 16 hours. The reaction mixture was subjected to conventional aqueous work-up and then purified by column chromatography, obtaining 3-(1H-benzimidazol-1-yl)propyl acetate (yield 70%).

reactant | benzimidazole | 118 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 3-bromopropyl acetate | 181 g | C(C)(=O)OCCCBr | C5H9BrO2
reactant | triethylamine | 111 g | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 2 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 500 g | CN(C=O)C | C3H7NO
product | 3-(1H-benzimidazol-1-yl)propyl acetate | yield 70% | C(C)(=O)OCCCN1C=NC2=C1C=CC=C2 | C12H14N2O2
